US07176242B2
A stirred solution of methyl 3-butyryl-4-hydroxybenzoate, pyridine (3.7 mL, 46 mmol), and hydroxylamine hydrochloride (3.55 g, 51 mmol) in ethanol (30 mL) was heated reflux for 2 h. The mixture was concentrated under reduced pressure and partitioned between water and ethyl acetate. The organic layer was washed with 1 N hydrochloric acid, saturated sodium bicarbonate, dried (sodium sulfate), filtered, and concentrated under reduced pressure to afford a crude oil. Purification by flash column chromatography (silica, 10:1 hexanes/ethyl acetate) provided methyl 4-hydroxy-3-[(1E)-N-hydroxybutanimidoyl]benzoate (170 mg): 1H NMR (500 MHz, CD3OD): δ 8.30–8.28 (m, 1H), 7.85–7.82 (m, 1H), 6.92–6.89 (m, 1H), 3.88 (s, 3H), 2.87–2.84 (m, 2H), 1.67–1.60 (m, 2H), 1.05–1.00 (m, 3H).

reactant | methyl 3-butyryl-4-hydroxybenzoate | C(CCC)(=O)C=1C=C(C(=O)OC)C=CC1O | C12H14O4
reactant | pyridine | 46 mmol, 3.7 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 51 mmol, 3.55 g | Cl.NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | methyl 4-hydroxy-3-[(1E)-N-hydroxybutanimidoyl]benzoate | 170 mg | OC1=C(C=C(C(=O)OC)C=C1)\C(\CCC)=N\O | C12H15NO4
